US08067447B2
To a solution of 1-(1-(4-fluorophenyl)-1H-indazol-5-yl)cyclohexanol (500 mg, 1.6 mmol) in DCE (20 mL) was added 1-methoxy-2-methyl-1-trimethylsiloxy-propene (935 uL, 4.8 mmol) followed by TiCl4 (1.7 mL of 1.0 M in DCM). Within 10 min, the reaction was complete. The reaction was quenched with MeOH and then extracted from brine containing dilute HCl with EtOAc×4. The organic layers were dried over MgSO4, filtered, concentrated and purified on SiO2 using 25% EtOAc in hexanes to give 635 mg (100%) of methyl 2-(1-(1-(4-fluorophenyl)-1H-indazol-5-yl)cyclohexyl)-2-methylprop-anoate MS found: (M+H)+=395.

reactant | 1-(1-(4-fluorophenyl)-1H-indazol-5-yl)cyclohexanol | 1.6 mmol, 500 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C1(CCCCC1)O | C19H19FN2O
reactant | 1-methoxy-2-methyl-1-trimethylsiloxy-propene | 4.8 mmol, 935 uL | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
catalyst | TiCl4 | 1.0 M, 1.7 mL | Cl[Ti](Cl)(Cl)Cl
product | methyl 2-(1-(1-(4-fluorophenyl)-1H-indazol-5-yl)cyclohexyl)-2-methylprop-anoate | 635 mg, 100% | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C1(CCCCC1)C(C(=O)OC)(C)C | C24H27FN2O2
